US05686455
Diethyl [1-methyl-4-phenyl-5-(4-pyridyl)imidazol-2-yl]methoxylmethylphosphonate
To a suspension of 80% NaH in mineral oil (0.013 g, 0.452 mmol) in DMF at 0° C. was added 1-methyl-2-hydroxymethyl-4-phenyl-5-[4-pyridinyl]imidazole (0.100 g, 0.377 mmol) in DMF. The resulting bright yellow solution was stirred at 0° C. for 0.5 h when diethyl chloromethylphosphonate (0.070 mL, 0.452 mmol) dissolved in 0.079 mL, of HMPA was added. The resulting mixture was stirred at 0° C. for 15 min and then warmed to rt. After 5 h, the solution was partitioned between CH2Cl2 and H2O. The organic extract was washed with aqueous NaCl and dried (MgSO4). The solvent was removed in vacuo, and the residue was purified by flash chromatography, eluting with 50:1 CH2Cl2 /MeOH. The title compound was obtained as a light amber oil (0.088 g, 56%): ESMS (m/z): 416 (M+ +H).

reactant | NaH | [H-].[Na+]
reactant | 1-methyl-2-hydroxymethyl-4-phenyl-5-[4-pyridinyl]imidazole | 0.377 mmol, 0.100 g | CN1C(=NC(=C1C1=CC=NC=C1)C1=CC=CC=C1)CO | C16H15N3O
reactant | diethyl chloromethylphosphonate | 0.452 mmol, 0.070 mL | ClCP(OCC)(OCC)=O | C5H12ClO3P
solvent | DMF | CN(C)C=O | C3H7NO
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | Diethyl [1-methyl-4-phenyl-5-(4-pyridyl)imidazol-2-yl]methoxylmethylphosphonate | CN1C(=NC(=C1C1=CC=NC=C1)C1=CC=CC=C1)COCP(OCC)(OCC)=O | C21H26N3O4P
